US07473783B2
To a stirring solution of 3-phenyl-1H-pyrazolo[3,4-d]thiazol-5-ylamine (20 mg, 0.092 mmol) and pyridine (52 μL, 0.65 mmol) in THF (0.5 mL) was added isonicotinoyl chloride hydrochloride (82 mg, 0.46 mmol). The reaction mixture was stirred at 70° C. for 22 h, then cooled to room temperature and treated with MeOH (1 mL) and a 4N aqueous solution of NaOH (0.25 mL). The reaction mixture was further stirred at room temperature for 4 h, then a 1N aqueous solution of HCl was added to adjust the pH to 7, and the mixture was extracted with 10% MeOH in CH2Cl2 (3×). Purification on silica gel with 0-10% MeOH in CH2Cl2 as eluent provided 12.5 mg (42%) of N-(3-phenyl-1H-pyrazolo[3,4-d]thiazol-5-yl)-isonicotinamide as a beige solid. 1H-NMR (d6-DMSO) δ: 13.5 and 13.7 (2 broad s, 1H, NH+tautomer), 13.2 (broad s, 1H, NH), 8.83 (d, 2H), 7.99 (d, 2H), 7.80 (m, 2H, tautomers), 7.55 (m, 2H, tautomers), 7.40 (m, 1H, tautomers; HPLC/MS m/z: 322 [MH]+.

reactant | 3-phenyl-1H-pyrazolo[3,4-d]thiazol-5-ylamine | 0.092 mmol, 20 mg | C1(=CC=CC=C1)C1=NNC=2N=C(SC21)N | C10H8N4S
reactant | pyridine | 0.65 mmol, 52 μL | N1=CC=CC=C1 | C5H5N
reactant | isonicotinoyl chloride hydrochloride | 0.46 mmol, 82 mg | Cl.C(C1=CC=NC=C1)(=O)Cl
reactant | NaOH | 0.25 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1 mL | CO | CH4O
product | N-(3-phenyl-1H-pyrazolo[3,4-d]thiazol-5-yl)-isonicotinamide | 12.5 mg, 42% | C1(=CC=CC=C1)C1=NNC=2N=C(SC21)NC(C2=CC=NC=C2)=O | C16H11N5OS
